US09340547B2
3-Methyl-1H-pyrrole-2-carboxylic acid
2.0 g (14.37 mmol) of methyl 3-methyl-1H-pyrrole-2-carboxylate (purchased from Otava Chemicals®, cat. no. 1056278) were dissolved in 50 mL of methanol and 21.5 mL of a 2N aqueous solution of sodium hydroxide were added. The mixture was stirred at room temperature overnight and then at 60° C. for 20 hours. Then the methanol was evaporated in vacuum and the remaining aqueous solution was neutralized with 21.5 mL of a 2N solution of hydrochloric acid. The product was extracted with a 95:5 mixture of chloroform/methanol and the organic phase was washed with brine, dried over magnesium sulphate, filtered and evaporated under vacuum. 1.38 g (77% yield) of the title compound was obtained as a brown solid.

reactant | methyl 3-methyl-1H-pyrrole-2-carboxylate | 14.37 mmol, 2.0 g | CC1=C(NC=C1)C(=O)OC | C7H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-Methyl-1H-pyrrole-2-carboxylic acid | 1.38 g, 77% yield | CC1=C(NC=C1)C(=O)O | C6H7NO2
